Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Minoxidil
 
Attending: ___.
 
Chief Complaint:
dyspnea on exertion
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ year old gentleman presenting to the emergency department 
complaining of 24 hours of worsening shortness of breath. 
Patient has known history of congestive heart failure. He denies 
any chest pain or pressure. Patient reports following his low 
sodium diet. However, in the last 2 days he ate a few meals 
outside with his wife. No fever or chills. No nausea vomiting or 
diarrhea. Compliant with his medications. He is also is that his 
weight has increased approximately 7 pounds over the last few 
days. Patient also notes a recent diagnosis of atrial 
fibrillation approximately 6 months ago. He is on right control 
agents and is noted to be in chronic atrial fibrillation. He 
reported that his usual level of functioning till he become SOB 
was 13 stairs, ___nd doing laundry. This was not 
possible to be done in the last 2 days.  
.  
In the ED, initial vitals were: T98 HR 77 BPb 124/74 RR 18 
Sat96%, oxygen delivery method not documented. Received IV lasix 
80 mg x1. Labs were notable for Tpn of 0.03, Cr 3.0, K 4, 
___: 23642, INR 3.1, Hgb 10.3, and EKG showed A. fib, LAD, no 
ST segment changes from previous EKG. His CXR is consistent with 
heart failure. Vitals on transfer were 129/73, HR 80's, RR 18, 
temp 98.1, sao2 97% 4lNC, 85% on RA.
.  
On arrival to the floor, patient denies SOB, CP, 
lightheadedness, palpitation. He reported 2 day history of 
orthopnea requiring him to sleep sitting up. Also, dry cough in 
the last 2 days. 
.  
REVIEW OF SYSTEMS  
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. reported having MW tear ___ year ago. He 
denies recent fevers, chills or rigors. He denies exertional 
buttock or calf pain. All of the other review of systems were 
negative.  
.  
Cardiac review of systems is notable for absence of chest pain, 
but  reports presence of dyspnea on exertion, paroxysmal 
nocturnal dyspnea, orthopnea, ankle edema in the last 2 days. 
Denied palpitations, syncope or presyncope.  

 
Past Medical History:
-pheochromocytoma ___ R adrenalectomy ___ (Dr ___  
-diabetes Mellitus, Type I - since age ___  
-ESRD ___ CRT ___ - post-op course complicated by delayed 
graft function and hydronephrosis ___ ureteral stent and 
percutaneous nephrostomy in ___. Now with renal insufficiency 
with baseline creatinine 2.5-3.0.  
-pancreas transplant ___, rejected ___  
-h/o partial SBO - treated conservatively  
-hypertension  
-coronary Artery Disease ___ stent of Ramus Intermedius in ___  

-paroxysmal Atrial Fibrillation  
-___ ventral hernia repair with mesh in ___  
-orthostatic hypotension  
-medial malleolar fracture ___ - treated with Keflex and 
Vicodin. Ortho evaluation ___ - no infection, no ulcer.  

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory. Brother has 
diabetes.
 
Physical Exam:
Admission physical exam:
VS: T= 98.2 BP= 143/79 HR= 89 bpm, irregular RR= 15 O2 sat=94%2L 
NC  
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with JVP of 10 cm. Right carotid bruit?
CARDIAC: irregular heart rate, normal S1, S2. systolic murmur 
___ best heard at left mid-sternal border.  No S3 or S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB except for 
bilateral lower ___ insp crackles with reduced air sounds and 
dullness on percussion. no wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. + BS  
EXTREMITIES: No c/c. trace pitting edema up to mid shins.   
SKIN: several skin cancer excision sites (right forearm, left 
shin, back)
PULSES:  
Right: Carotid 2+ DP 2+ ___ 2+  
Left: Carotid 2+ DP 2+ ___ 2+  
.
Discharge physical exam:
VS: T= 98 BP= 116/57 (120'-140's/___) HR= 68 bpm (60-80's) 
irregular RR= 13 O2 sat=91%2L NC  
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with JVP of 10 cm. Right carotid bruit?
CARDIAC: irregular heart rate, normal S1, S2. systolic murmur 
___ best heard at left mid-sternal border.  No S3 or S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB except for 
bilateral lower ___ insp crackles with reduced air sounds and 
dullness on percussion. no wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. + BS  
EXTREMITIES: No c/c. trace pitting edema up to mid shins.   
SKIN: several skin cancer excision sites (right forearm, left 
shin, back)
PULSES:  
Right: Carotid 2+ DP 2+ ___ 2+  
Left: Carotid 2+ DP 2+ ___ 2+ 
 
Pertinent Results:
CBC:
___ 11:50AM BLOOD WBC-8.0 RBC-3.56* Hgb-10.3* Hct-32.7* 
MCV-92 MCH-29.0 MCHC-31.5 RDW-14.5 Plt ___
___ 06:00AM BLOOD WBC-6.3 RBC-3.33* Hgb-9.9* Hct-30.3* 
MCV-91 MCH-29.8 MCHC-32.9 RDW-14.7 Plt ___
.
Coagulation profile:
___ 11:50AM BLOOD ___ PTT-34.5 ___
___ 06:00AM BLOOD ___ PTT-37.6* ___
.
Blood chemistry:
___ 11:50AM BLOOD Glucose-100 UreaN-58* Creat-3.0* Na-141 
K-4.0 Cl-105 HCO3-19* AnGap-21
___ 06:00AM BLOOD Glucose-59* UreaN-59* Creat-3.2* Na-141 
K-3.4 Cl-105 HCO3-23 AnGap-16
___ 11:50AM BLOOD Calcium-8.4 Phos-5.5* Mg-2.1
___ 06:00AM BLOOD Calcium-8.2* Phos-5.6* Mg-2.0
.
Cardiac markers:
___ 11:50AM BLOOD ___
___ 11:50AM BLOOD cTropnT-0.03*
.
CXR ___ PA and LAT
FINDINGS: There is marked vascular engorgement and interstitial 
edema 
consistent with moderate-to-severe failure. There are bilateral 
pleural 
effusions, right much greater than left. Ill-defined opacity is 
noted at the right lung base as well. The mediastinum is grossly 
unremarkable. The 
cardiac silhouette remains enlarged but stable. There is no 
pneumothorax.  
The bones are diffusely osteopenic, and the evaluation is 
suboptimal. 

 
Brief Hospital Course:
___ year old gentleman with DM-I,hypertension, hyperlipidemia, 
___ renal transplant, diastolic heart failure, with recent 
diagnosis of Afib 6 month ago, came with CHF exacerbation, most 
likely dietary. Discharged in stable condition with no shortness 
of breath.  
.  
# Acute on chronic diastolic heart failure: LVEF > 55% on last 
echo. He received 80 mg iv lasix in the ED with improvement in 
his symptoms. CXR and clinical presentation consistent with 
acute on chronic diastolic heart failure. Most likely diet 
related given recent outdoor meals with wife. He is compliant 
with his medication. Not hypertensive, mobile at baseline, PE is 
unlikely. Not hyperthyroid based on TSH in ___. heart rate 
seems well controlled, unlikely cause of exacerbation. Cr and 
electrolytes stable, unlikely to be secondary to worsening 
kidney failure. We continued his metoprolol. On the day of 
discharge, we gave him another IV lasix 80 mg. 
.  
# Afib: diagnosed 6 month ago, on rate control and coumadin. He 
reports taking coumadin 6 mg daily. INR on day of discharge was 
3.4. Coumadin is held on day of discharge and to restart on his 
regimen the following day. We continued metoprolol. He is 
provided with prescription to check his INR on ___ and 
results to be faxed to his PCP's office at ___.  
.  
# CAD ___ stent: had stent to his ramus intermedius in ___. His 
exercise stress test in ___ showed appropriate BP response with 
7 min exercise and ___ METS. Tpn 0.03 in setting of kidney 
disease. We continued metoprolol, pravastatin, aspirin. 
.
# Hypertension: well controlled. We continued amlodipine and 
metoprolol.
.  
# hyperlipidemia: we continued pravastatin.
.
# Diabetes: ___ HA1c 6.7%. complicated by ESKD ___ 
transplant. We continued his home regimen. He had a few reading 
in the ___. He didn't eat much from the meals provided in the 
hospital (cardiac diabetic diet). 
.
# ESKD ___ kidney transplant:  Cr at baseline. We continued his 
immunosuppressive therapy. Cyclosporine was changed per renal 
transplant team to cyclosporine modified. He will have his chem 
7 and calcium to be checked on ___ (prescription for it is 
provided to the patient). Results to be faxed to Dr ___ 
office at ___.
.    
# History of gastritis and MW tear: We continued pantoprazole 
given he is on steroid as well.
.
.
********************
Transitional issues:
********************
1. please check chem 7 and caclium follow up for ___
2. please follow up with his INR and coumadin regimen
 
Medications on Admission:
MEDICATIONS CONFIRMED WITH PATIENT:  
AMLODIPINE [NORVASC] - 10 mg Tablet - 1 Tablet(s) by mouth once 
a day
CINACALCET - 30 mg Tablet - 1 Tablet(s) by mouth daily
CYCLOSPORINE MODIFIED [NEORAL] - 100 mg Capsule - 1 Capsule(s) 
by mouth twice a day - No Substitution
FLUDROCORTISONE - 0.1 mg Tablet - 1 Tablet(s) by mouth once a 
day
FUROSEMIDE - 20 mg Tablet - 3 Tablet(s) by mouth daily
INSULIN GLARGINE [LANTUS] - 100 unit/mL Solution - 12 units at 
bedtime
METOPROLOL TARTRATE - 75 mg Tablet - 1 Tablet(s) by mouth twice 
a day
MYCOPHENOLATE MOFETIL [CELLCEPT] - 500 mg Tablet - 2 Tablet(s) 
by mouth twice a day
PANTOPRAZOLE - 40 mg Tablet, Delayed Release (E.C.) - 1 
Tablet(s) by mouth once a day
PRAVASTATIN - 80 mg Tablet - 1 Tablet(s) by mouth once a day
PREDNISONE - 5 mg Tablet - 1 Tablet(s) by mouth once a day
SULFAMETHOXAZOLE-TRIMETHOPRIM - 400 mg-80 mg Tablet - 1 
Tablet(s) by mouth daily
WARFARIN - 2 mg Tablet - ___ Tablet(s) by mouth daily as 
directed
(taking 6 mg everyday) 
Medications - OTC
ASPIRIN [ASPIRIN LOW DOSE] -  (update) - 81 mg Tablet, Delayed
Release (E.C.) - 1 Tablet(s) by mouth once a day
CALCIUM CARBONATE-VITAMIN D2 [CALCIUM + VITAMIN D] -  (OTC) - 
600
mg (1,500 mg)-200 unit Tablet - 1 Tablet(s) by mouth twice a day
OMEGA-3 FATTY ACIDS-VITAMIN E [FISH OIL] -  (OTC) - Dosage 
uncertain
 
Discharge Medications:
1. Outpatient Lab Work
please draw blood: Na,K,HCo3,Cl,BUN,Cr,BG,Ca as well as INR on 
___ and have results faxed to Transplant clinic Dr 
___ at ___ and Dr ___ (___) office at 
___. thank you.  
2. amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

3. cinacalcet 30 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. cyclosporine modified 25 mg Capsule Sig: Four (4) Capsule PO 
Q12H (every 12 hours).
Disp:*240 Capsule(s)* Refills:*0*
5. fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Lasix 20 mg Tablet Sig: Three (3) Tablet PO once a day.  
7. insulin glargine 100 unit/mL Solution Sig: One (1) injection 
Subcutaneous once a day: as directed, 12 unit at bedtime.  
8. metoprolol tartrate 50 mg Tablet Sig: 1.5 Tablets PO BID (2 
times a day).  
9. mycophenolate mofetil 500 mg Tablet Sig: Two (2) Tablet PO 
BID (2 times a day).  
10. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
11. pravastatin 20 mg Tablet Sig: Four (4) Tablet PO HS (at 
bedtime).  
12. prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
13. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
14. calcium carbonate-vitamin D2 600 mg calcium- 200 unit 
Capsule Sig: One (1) Capsule PO twice a day.  
15. omega-3 fatty acids-vitamin E  Oral
16. sulfamethoxazole-trimethoprim 400-80 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
17. Coumadin 2 mg Tablet Sig: ___ Tablets PO once a day: as 
directed. .  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
diastolic heart failure exacerbation
.
Secondary Diagnosis:
Type I DM
ESKD ___ renal transplant
hypertension
Atrial Fibrillation
Coronary Artery Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,
.
It was a great pleasure taking care of you as your doctor. As 
you know you were admitted to ___ 
___ difficulty breathing. The most likely cause was 
eating meals at restaurants that were not low sodium. You were 
treated with diruetics to remove the extra fluid and your 
breathing dramatically improved. 
.
You were seen by the nephrologists who recommended changing your 
cyclosporine dose. 
.
We made the following changes in your medications.
We recommend that you do not take your coumadin tonight and 
resume at the previous dose in the morning. Please follow up 
with your primary care provider ___ ___ days to have your INR 
(coumadin level) checked.
.
please START cyclosporine (Neoral) modified 100 mg twice daily 
instead of regular cyclosporine.
.
Please continue to take the rest of your home medications the 
way you were taking them at home prior to admission. 
.
Please avoid salt in your meals.
Please Weigh yourself every morning, call MD if weight goes up 
more than 3 lbs.
.
Please follow with your appointments as illustrated below.
.
You will need to call on ___ your primary care 
physician Dr ___ office at ___ to schedule 
a follow up appointment with him.
.
On ___, please go to blood lab so they can draw 
blood for you to check your kidney function. Please have the 
results faxed as explained on the prescription to Kidney 
Transplant clinic Dr ___ office at ___.
 
Followup Instructions:
___